US07439261B2
6.0 g (15.4 mmoles) of 4′-(4-isopropyl-5-oxo-3-pentanoyl-oxazolidin-2-yl)-biphenyl-2-carbonitrile is reacted in 30 ml of ethanol with 3.8 g of ammonium formate (61.6 mmoles) and 2 g of 5% Pd/C catalyst. The temperature is raised to 75° C., keeping these conditions for 3 hours. The mixture is cooled and the catalyst is filtered off. The organic phase is concentrated under reduced pressure to a residue to obtain 2-[(2′-cyano-biphenyl-4-yl-methyl)-pentanoyl-amino]-3-methylbutyric acid.

reactant | 4′-(4-isopropyl-5-oxo-3-pentanoyl-oxazolidin-2-yl)-biphenyl-2-carbonitrile | 15.4 mmoles, 6.0 g | C(C)(C)C1N(C(OC1=O)C1=CC=C(C=C1)C=1C(=CC=CC1)C#N)C(CCCC)=O | C24H26N2O3
reactant | ammonium formate | 61.6 mmoles, 3.8 g | C(=O)[O-].[NH4+]
solvent | ethanol | 30 ml | C(C)O | C2H6O
catalyst | Pd/C | 2 g | [Pd] | Pd
product | 2-[(2′-cyano-biphenyl-4-yl-methyl)-pentanoyl-amino]-3-methylbutyric acid | C(#N)C1=C(C=CC=C1)C1=CC=C(C=C1)CN(C(C(=O)O)C(C)C)C(CCCC)=O | C24H28N2O3
